US05374720
The same procedure as in Reference Example 22-1 was carried out by using N-tert-butyldimethylsilyl-5-tert-butyldimethylsiloxymethyl-2-oxopyrrolidine (10.67 g, 31.6 mmol), lithium diisopropylamide (2.1M tetrahydrofuran solution, 15.1 ml, 31.6 mmol) and (2S,4S)-N-allyloxycarbonyl-2-iodomethyl-4-tritylthiopyrrolidine (10 g, 17.6 mmol) to obtain (2R,4S)-N-allyloxycarbonyl-2-[(5S)-5-hydroxymethyl-2-oxopyrrolidin-3-ylmethyl]-4-tritylthiopyrrolidine (2 g, yield: 21%).

reactant | N-tert-butyldimethylsilyl-5-tert-butyldimethylsiloxymethyl-2-oxopyrrolidine | 31.6 mmol, 10.67 g | [Si](C)(C)(C(C)(C)C)N1C(CCC1CO[Si](C)(C)C(C)(C)C)=O | C17H37NO2Si2
reactant | lithium diisopropylamide | 31.6 mmol, 2.1M, 15.1 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | (2S,4S)-N-allyloxycarbonyl-2-iodomethyl-4-tritylthiopyrrolidine | 17.6 mmol, 10 g | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CI | C28H28INO2S
product | (2R,4S)-N-allyloxycarbonyl-2-[(5S)-5-hydroxymethyl-2-oxopyrrolidin-3-ylmethyl]-4-tritylthiopyrrolidine | 2 g, yield: 21% | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC1C(N[C@@H](C1)CO)=O | C33H36N2O4S
